US06680329B2
6.3. 1-[(2S)-2-Amino-5-(5-aminopyrid-2-yl)-1-oxopentyl]-4-methylpiperidine hydrochloride
The same procedure as in Example 1.5 is used. Thus, starting with 1,1-dimethylethyl [(S)-4-(5-aminopyrid-2-yl)-1-[(4-methylpiperid-1-yl)carbonyl]butyl]carbamate (10.2 g; 26.0 mmol), 9.5 g of 1-[(2S)-2-amino-5-(5-aminopyrid-2-yl)-1-oxopentyl[-4-methylpiperidine hydrochloride are obtained in the form of a hygroscopic amorphous powder, which is used without further purification in the following step.

reactant | 1,1-dimethylethyl [(S)-4-(5-aminopyrid-2-yl)-1-[(4-methylpiperid-1-yl)carbonyl]butyl]carbamate | 26.0 mmol, 10.2 g | NC=1C=CC(=NC1)CCC[C@@H](C(=O)N1CCC(CC1)C)NC(OC(C)(C)C)=O | C21H34N4O3
reactant | 4-methylpiperidine hydrochloride | Cl.CC1CCNCC1
product | 1-[(2S)-2-Amino-5-(5-aminopyrid-2-yl)-1-oxopentyl]-4-methylpiperidine hydrochloride | Cl.N[C@H](C(=O)N1CCC(CC1)C)CCCC1=NC=C(C=C1)N | InChI=1S/C16H26N4O.ClH/c1-12-7-9-20(10-8-12)16(21)15(18)4-2-3-14-6-5-13(17)11-19-14;/h5-6,11-12,15H,2-4,7-10,17-18H2,1H3;1H/t15-;/m0./s1
